US04144248
m-Benzoylbenzaldehyde (902 mg) was added to 1 ml of FAMSO, and 60 mg of sodium hydroxide was added. The mixture was stirred at 95° C. for 70 minutes in an atmosphere of argon. Water (20 ml) was added, and the reaction mixture was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure, and chromatographed on a silica gel column using methylene chloride as an eluant to afford 1.035 g of 1-methylsulfinyl-1-methylthio-2-(m-benzoylphenyl)ethylene.

reactant | m-Benzoylbenzaldehyde | 902 mg | C(C1=CC=CC=C1)(=O)C=1C=C(C=O)C=CC1 | C14H10O2
reactant | FAMSO | 1 ml | CSCS(=O)C | C3H8OS2
reactant | sodium hydroxide | 60 mg | [OH-].[Na+]
solvent | Water | 20 ml | O | H2O
product | 1-methylsulfinyl-1-methylthio-2-(m-benzoylphenyl)ethylene | 1.035 g | CS(=O)C(=CC1=CC(=CC=C1)C(C1=CC=CC=C1)=O)SC | C17H16O2S2
